US07829584B2
6-chloro-3-cyano-2-(4-nitro-phenoxycarbonylmethyl)-pyridine 1-oxide
Another batch was prepared as follows: To a suspension of (6-chloro-3-cyano-pyridin-2-yl)-acetic acid 4-nitro-phenyl ester (157 mg, 0.5 mmol) and sodium percarbonate (157 mg, 1.0 mmol) in anhydrous acetonitrile (4 mL), cooled in an ice-water bath, was added trifluoromethanesulfonic anhydride dropwise (253 μL, 1.5 mmol). The reaction mixture turned into a translucent light yellow solution. After stirring for 3 hrs in ice-water bath, the reaction mixture was poured into saturated sodium carbonate solution (30 mL) and cooled in an ice-water bath. The reaction vial was rinsed with DCM and poured into the sodium carbonate solution. After stirring for 25 min in the ice-water bath, the organic layer was separated. The aqueous layer was further extracted with DCM (2×15 mL). The combined organic layers were dried over anhydrous sodium sulfate. After rotary evaporation of most solvent, the concentrated solution was loaded on a preparative silica TLC (2 mm, 20×20 cm) and developed with EtOAc/Hexane (1:1). The title compound was obtained as a light yellow solid (108 mg, 65%). 1H-NMR (300 MHz, CDCl3) δ 8.29 (d, 2H), 7.68 (d, 1H), 7.51 (d, 1H), 7.31 (d, 2H), 4.40 (d, 2H).

reactant | (6-chloro-3-cyano-pyridin-2-yl)-acetic acid 4-nitro-phenyl ester | 0.5 mmol, 157 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(CC1=NC(=CC=C1C#N)Cl)=O | C14H8ClN3O4
reactant | sodium percarbonate | 1.0 mmol, 157 mg | C(=O)([O-])[O-].C(=O)([O-])[O-].OO.OO.OO.[Na+].[Na+].[Na+].[Na+]
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium carbonate | 30 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 6-chloro-3-cyano-2-(4-nitro-phenoxycarbonylmethyl)-pyridine 1-oxide | ClC1=CC=C(C(=[N+]1[O-])CC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C#N | C14H8ClN3O5
